US04101656
7β-D-Mandelamido-7α-methoxy-3-[1-(2-methanesulfonamidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid
A solution of 1.04 g (2 mmol) of 7β-amino-7α-methoxy-3-[1-(2-methanesulfonamidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester and 0.30 g (2 mmol) of N,N-diethylaniline in 100 ml of dry methylene chloride is stirred at 0°-5° while 0.56 g (2 mmol) of D-O-dichloroacetylmandeloyl chloride in 10 ml of methylene chloride is added dropwise over 10 minutes. The mixture is stirred in the cold for 30 minutes when warmed to room temperature and stirred for an additional 30 minutes. The solution is washed with 50 ml of cold dilute hydrochloric acid and 50 ml of cold 5% aqueous sodium bicarbonate, dried and evaporated to dryness. The residue is dissolved in a mixture of 10 ml of trifluoroacetic acid and 2 ml of m-dimethoxybenzene and stirred at ambient temperature for 2 hours. The excess trifluoroacetic acid is evaporated under vacuum and the residue is partitioned between 50 ml of ether and 50 ml of water and adjusted to pH 9.3-9.5 with 5% aqueous sodium carbonate. The organic phase is separated and discarded. The aqueous phase is stirred at pH 9.3-9.5 for 30 minutes, extracted with 50 ml of ethyl acetate which is discarded, layered with fresh ethyl acetate and adjusted to pH 1.5 with dilute hydrochloric acid. The aqueous layer is extracted with three 50 ml portions of ethyl acetate and the combined extracts are dried and evaporated to a small volume. Petroleum ether is added dropwise to precipitate the title compound which is collected by filtration and dried.

reactant | 7β-amino-7α-methoxy-3-[1-(2-methanesulfonamidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester | 2 mmol, 1.04 g | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@@]2(OC)N)=O)C(CCNS(=O)(=O)C)SC2=NN=NN2 | C17H27N7O6S3
reactant | N,N-diethylaniline | 2 mmol, 0.30 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7β-D-Mandelamido-7α-methoxy-3-[1-(2-methanesulfonamidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | C([C@H](O)C1=CC=CC=C1)(=O)N[C@]1([C@@H]2N(C(=C(CS2)C(CCNS(=O)(=O)C)SC2=NN=NN2)C(=O)O)C1=O)OC | C21H25N7O8S3
